US05599829
3-(2,6-Dimethylphenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one
The title compound was prepared by the procedure described in Example 12 using 8.0 g of 2-[3-(2,6-dimethylphenyl)-thioureido]-acetamide, 25.0 g of ethyl iodide, and (200 mL) ethanol. Crystallization from hexane/diethyl ether mixture afforded the title compound as a light yellow solid (2.4 g), m.p. 86°-88° C. Anal. Calcd. for. C12H16N2O S: C, 62.87; H, 6.49; N, 11.28. Found: C, 62.98; H, 6.57; N, 11.30. Mass spectrum (El, M.+) m/z 248 1H-NMR (DMSO-d6 ; 400 MHz) δ7.27-7.30 (m, 1H), 7.21 (m, 1H), 7.19 (m, 1H), 7.33 (d, 1H), 4.42 (s, 2H), 3.06 (q, 2H), 2.07 (s, 6H), and 1.26 ppm (t, 3H).

reactant | 2-[3-(2,6-dimethylphenyl)-thioureido]-acetamide | 8.0 g | CC1=C(C(=CC=C1)C)NC(NCC(=O)N)=S | C11H15N3OS
reactant | ethyl iodide | 25.0 g | C(C)I | C2H5I
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-(2,6-Dimethylphenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one | 2.4 g | CC1=C(C(=CC=C1)C)N1C(=NCC1=O)SCC | C13H16N2OS
